US08377968B2
To a solution of N-((1-((1-aminocyclopentyl)methyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl) benzamide (100 mg, 0.28 mmol) and i-Pr2NEt (0.2 mL, 1.1 mmol) in CH2Cl2 (5 mL) was added ethyl chloroformate (0.05 mL, 0.53 mmol). The reaction mixture was allowed to stir at room temperature for 18 hours and then diluted with ethyl acetate. The organic fraction was washed with sat. NaHCO3, and then brine and dried over Na2SO4. The solvent was removed and the crude was purified by HiTOPs to provide ethyl 1-((4-((3,5-bis(trifluoromethyl)benzamido)methyl)piperidin-1-yl)methyl)cyclopentylcarbamate.

reactant | N-((1-((1-aminocyclopentyl)methyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl) benzamide | 0.28 mmol, 100 mg | NC1(CCCC1)CN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C21H27F6N3O
reactant | i-Pr2NEt | 1.1 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.53 mmol, 0.05 mL | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-((4-((3,5-bis(trifluoromethyl)benzamido)methyl)piperidin-1-yl)methyl)cyclopentylcarbamate | FC(C=1C=C(C(=O)NCC2CCN(CC2)CC2(CCCC2)NC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C24H31F6N3O3
